US07141583B2
(5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-azidomethyloxazolidin-2-one (2 g, 5.7 mmol) was dissolved in dioxane (10 ml). Bicyclo[2.2.1]hepta-2,5-diene (3.1 ml, 28.7 mmol) was added and it was refluxed under nitrogen for 18 hours. The solvent was evaporated in vacuo and the residue subjected to chromatography on silica gel eluting with 25% ethylacetate in dichloromethane to give the title compound (1.51 g).

reactant | (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-azidomethyloxazolidin-2-one | 5.7 mmol, 2 g | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C15H15FN4O2S
reactant | Bicyclo[2.2.1]hepta-2,5-diene | 28.7 mmol, 3.1 ml | C12C=CC(C=C1)C2 | C7H8
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 1.51 g | S1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C17H17FN4O2S
